US09388173B2
Step 4: 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(1,3-dimethyl-1H-indol-6-yl)phenoxy)propan-2-ol
A mixture of 6-bromo-1,3-dimethyl-1H-indole (200 mg, 0.89 mmol), 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol (401 mg, 0.98 mmol), K2CO3 (369 mg, 2.67 mmol) and Pd(dppf)Cl2 (50 mg) in dioxane (8 mL) and H2O (2 mL) was stirred at 100° C. for 16 h under N2. The catalyst was filtered and the filtrate was concentrated. The residue was purified by prep-HPLC to afford the title compound (38 mg, Yield 10%). 1H NMR (400 MHz, MeOD): δ 8.42 (s, 1H), 7.52-7.50 (m, 2H), 7.37-7.25 (m, 7H), 7.16-7.14 (m, 1H), 6.93-6.89 (m, 2H), 4.48-4.45 (m, 1H), 4.34 (s, 2H), 4.11-4.09 (m, 2H), 3.76 (s, 3H), 3.50-3.47 (m, 2H), 3.36-3.31 (m, 2H), 3.31-3.14 (m, 2H), 2.30 (s, 3H) ppm; ESI-MS (m/z): 427.3 [M+1]+.

reactant | 6-bromo-1,3-dimethyl-1H-indole | 0.89 mmol, 200 mg | BrC1=CC=C2C(=CN(C2=C1)C)C | C10H10BrN
reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol | 0.98 mmol, 401 mg | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)O | C24H32BNO4
reactant | K2CO3 | 2.67 mmol, 369 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(1,3-dimethyl-1H-indol-6-yl)phenoxy)propan-2-ol | 38 mg, Yield 10% | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)C1=CC=C2C(=CN(C2=C1)C)C)O | C28H30N2O2
